US05981438
A mixed solution of acetic anhydride (15 ml), 1-(4-trifluoromethoxyphenyl)-5-(4-cyano-2,5-difluoroanilino)tetrazole (1.5 g) and concentrated sulfuric acid (1 ml) was stirred at 70 to 80° C. for 1 hour. After unreacted acetic anhydride was distilled off under reduced pressure, the residue was washed with water and n-hexane to obtain 1-(4-trifluoromethoxyphenyl)-5-(4-cyano-2,5-difluoro-N-acetylanilino)tetrazole (1.55 g).

reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-trifluoromethoxyphenyl)-5-(4-cyano-2,5-difluoroanilino)tetrazole | 1.5 g | FC(OC1=CC=C(C=C1)N1N=NN=C1NC1=C(C=C(C(=C1)F)C#N)F)(F)F | C15H7F5N6O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(4-trifluoromethoxyphenyl)-5-(4-cyano-2,5-difluoro-N-acetylanilino)tetrazole | 1.55 g | FC(OC1=CC=C(C=C1)N1N=NN=C1N(C1=C(C=C(C(=C1)F)C#N)F)C(C)=O)(F)F | C17H9F5N6O2
